US05344843
A mixture of (E)-4-[[3-(4-fluorophenyl)-2-propenyl]oxy]-alpha-oxobenzeneacetic acid methyl ester (0.5 g) in methanol and 0.5N sodium hydroxide (8 mL) was treated as in Example 19. Extraction provided solids which were crystallized from diethyl ether-hexane to give 0.43 g of colorless (E)-4-[[3-(4-fluorophenyl)-2-propenyl]oxy]-alpha-oxobenzeneacetic acid, mp 132°-133° C.

reactant | (E)-4-[[3-(4-fluorophenyl)-2-propenyl]oxy]-alpha-oxobenzeneacetic acid methyl ester | 0.5 g | COC(C(C1=CC=C(C=C1)OC\C=C\C1=CC=C(C=C1)F)=O)=O | C18H15FO4
solvent | methanol | CO | CH4O
solvent | sodium hydroxide | 0.5N, 8 mL | [OH-].[Na+]
product | (E)-4-[[3-(4-fluorophenyl)-2-propenyl]oxy]-alpha-oxobenzeneacetic acid | 0.43 g | FC1=CC=C(C=C1)/C=C/COC1=CC=C(C=C1)C(C(=O)O)=O | C17H13FO4
